US09193741B2
Synthesis of 2-(4-chlorophenoxy)-1-(4-(6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidin-4-yl)piperazin-1-yl)ethanone
To a solution of 6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidin-4(3H)-one (40 mg, 0.15 mmol) and BOP (88 mg, 0.20 mmol) in CH3CN (1 ml) was added DBU (34 μl, 0.23 mmol). After stirring for 10 minutes at room temperature, 2-(4-chlorophenoxy)-1-(piperazin-1-yl)ethanone (59 mg, 0.23 mmol) was added. The reaction was stirred at room temperature overnight and then heated at 60° C. for 4 hours. The solvents were removed under reduced pressure, and the crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 100:1) to yield the title compound as a white solid (66 mg, 86%).

reactant | 6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidin-4(3H)-one | 0.15 mmol, 40 mg | FC1=CC=C(C=C1)C1=CC2=C(N=C(NC2=O)C)S1 | C13H9FN2OS
reactant | BOP | 0.20 mmol, 88 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DBU | 0.23 mmol, 34 μl | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-(4-chlorophenoxy)-1-(piperazin-1-yl)ethanone | 0.23 mmol, 59 mg | ClC1=CC=C(OCC(=O)N2CCNCC2)C=C1 | C12H15ClN2O2
solvent | CH3CN | 1 ml | CC#N | C2H3N
product | 2-(4-chlorophenoxy)-1-(4-(6-(4-fluorophenyl)-2-methylthieno[2,3-d]pyrimidin-4-yl)piperazin-1-yl)ethanone | 66 mg, 86% | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C25H22ClFN4O2S
